US07576108B2
b: (3-Methyl-butyl)-triphenyl-phosphonium bromide
Reaction of 3-methylbutylbromide (6.4 g, 42.0 mmol) with triphenylphosphine (10.0 g, 40.0 mmol) following the procedure of 2c affords the title compound as a white solid (2.6 g). MS (m/e): 335 (M+H).

reactant | 3-methylbutylbromide | 42.0 mmol, 6.4 g | CC(CCBr)C | C5H11Br
reactant | triphenylphosphine | 40.0 mmol, 10.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (3-Methyl-butyl)-triphenyl-phosphonium bromide | 2.6 g | [Br-].CC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H26P.BrH/c1-20(2)18-19-24(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-17,20H,18-19H2,1-2H3;1H/q+1;/p-1
